Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone / atorvastatin
 
Attending: ___
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with h/o DM type 1, CAD, CKD 
(baseline creatinine 1.3-2.0), PAD s/p R BKA, chronic back pain 
(wheelchair bound) on chronic opioids with methadone, HTN, and 
recently diagnosed with statin-induced autoimmune hepatitis 
(confirmed on liver biopsy, LFTs improved, not treated with 
steroids); presented from her ALF after she was noticed to be 
lethargic during breakfast, found to have hyperglycemia, acute 
renal failure, and complaining of urinary frequency (although UA 
negative). 

Ms. ___ states that she started feeling "sleepy" this morning 
all of the sudden during breakfast and remembers someone calling 
EMS and picking her up. She denies any localizing symptoms 
except for increased urinary frequency for several days which is 
corroborated by outpatient notes. She had a urine culture 
several days prior to admission which grew mixed flora and she 
had not received antibiotics recently. 

She had a similary admission for AMS with bradycardia in ___ in the setting of hyperglycemia thought due to insulin pump 
noncompliance and she was detetrminted to be not able to manage 
her insulin pump and so was transitioned to lantus per ___ 
consult at that ___. 

She is sleepy during the interview but responding appropriately. 
She states her blood sugar this morning was 566 for which she 
took 22 units of sliding scale Humalog prior to coming to the 
ED. 

In th ED, she was given IV fluid and blood sugar was in the 
300-400s. 

Also per outpatient notes, her methadone dose was recently 
increased from 5 TID to 10 BID in mid ___ for her chronic 
back pain. 

REVIEW OF SYSTEMS:  
(+) decreased appetite, chronic back pain and leg pain 
(unchanged recently)
(-) chest pain, SOB, nausea, vomiting, ab pain
Remainder of 10 point ROS was otherwise negative. 
 
Past Medical History:
- H/o DVT  
- MI ___, no stents  
- DM type I. Followed by ___.  
- Peripheral neuropathy  
- gastroparesis  
- HTN  
- Hyperlipidemia  
- Hypothyroidism  
- PVD/PAD  
- Autonomic dysfunction, orthostatic hypotension  
- Barretts Esophagus on EGD ___  
- Depression  
- S/p right BKA  
- Hiatal hernia  
- sciatica  
- S/p laminectomy  
- S/p hysterectomy
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___. Father - coronary artery disease with MI in her ___, died at 
age ___.
 

 
Physical Exam:
ADMISSION EXAM:
VS: 97.5  P 66  124/57 R18 98% on rA
GEN: lethargic, sleeping but awakens to voice, she nods off 
occasionally during our interview but answering appropriately. 
she is oriented to person, place, month, year but not exact 
date.
HEENT: dry mucous membranes anicteric sclera, no conjunctival 
pallor  
NECK: Supple without LAD  
PULM: subtle rales heard on RLL
COR: RRR, normal S1/S2, no murmurs 
ABD: Soft, NT ND, normal BS  
EXTREM: R BKA
SKIN: armpits are very dry
NEURO: CN II-XII grossly intact, motor function grossly normal, 
no asterixis, no tremors, pupils are slightly small at 3mm and 
equal bilaterally and reactive to light

DISCHARGE EXAM:
VS notable for SBPs 200-210s this AM (before meds, otherwise
between 140s-160s/60s during day), ___ 149-217, afebrile, other
vitals stable
General: well appearing, elderly woman, sitting up eating
breakfast, NAD
HEENT: NCAT, anicteric sclera, PERRL, MMM
Heart: RRR, no m/r/g
Lungs: CTA-B, no w/r/r
Abdomen: soft, NT/ND, +BS, no rebound/guarding, small skin tear
on pannus which is closed, no streaking or erythema
Ext: s/p BKA on right, small scab on area which is well-healed,
no e/o cellulitis
Neuro: AO x 3
 
Pertinent Results:
ADMISSION LABS:
___ 05:15PM   GLUCOSE-294* UREA N-42* CREAT-2.2* 
SODIUM-132* POTASSIUM-4.6 CHLORIDE-100 TOTAL CO2-19* ANION 
GAP-18
___ 05:15PM   CK(CPK)-47
___ 05:15PM   CALCIUM-9.2 PHOSPHATE-3.7 MAGNESIUM-1.8
___ 12:15PM URINE  HOURS-RANDOM
___ 12:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-POS
___ 12:15PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 12:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-600 
GLUCOSE-1000 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:15PM URINE  RBC-<1 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-1
___ 12:15PM URINE  HYALINE-9*
___ 12:15PM URINE  MUCOUS-RARE
___ 11:31AM   ___ PO2-29* PCO2-52* PH-7.35 TOTAL 
CO2-30 BASE XS-0
___ 11:31AM   ___ PO2-29* PCO2-52* PH-7.35 TOTAL 
CO2-30 BASE XS-0
___ 11:31AM   O2 SAT-46
___ 11:00AM   GLUCOSE-332* UREA N-45* CREAT-2.6* 
SODIUM-132* POTASSIUM-5.0 CHLORIDE-95* TOTAL CO2-23 ANION GAP-19
___ 11:00AM   estGFR-Using this
___ 11:00AM   ALT(SGPT)-25 AST(SGOT)-33 ALK PHOS-151* TOT 
BILI-0.4
___ 11:00AM   LIPASE-15
___ 11:00AM   cTropnT-0.03*
___ 11:00AM   ALBUMIN-3.6 CALCIUM-10.0 PHOSPHATE-3.2 
MAGNESIUM-1.9
___ 11:00AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:00AM   WBC-7.3 RBC-3.33* HGB-10.2* HCT-31.7* MCV-95 
MCH-30.6 MCHC-32.2 RDW-13.1 RDWSD-45.3
___ 11:00AM   NEUTS-69.3 LYMPHS-17.8* MONOS-10.6 EOS-1.1 
BASOS-0.8 IM ___ AbsNeut-5.03# AbsLymp-1.29 AbsMono-0.77 
AbsEos-0.08 AbsBaso-0.06
___ 11:00AM   ___ PTT-26.6 ___

DISCHARGE LABS:

___ 06:45AM BLOOD WBC-5.3 RBC-3.13* Hgb-9.7* Hct-30.1* 
MCV-96 MCH-31.0 MCHC-32.2 RDW-13.2 RDWSD-45.8 Plt ___
___ 06:45AM BLOOD Glucose-211* UreaN-24* Creat-2.0* Na-131* 
K-4.6 Cl-100 HCO3-25 AnGap-11
___ 07:24AM BLOOD ALT-29 AST-46* AlkPhos-133* TotBili-0.3
___ 06:45AM BLOOD Calcium-9.5 Phos-3.2 Mg-2.1
___ 03:30PM BLOOD CRP-8.5*
___ 07:05AM BLOOD TSH-1.7
___ 03:30PM BLOOD SED RATE-Test      
 
Brief Hospital Course:
___ y/o woman with h/o of type I DM, CAD, CKD (baseline Cr 
1.3-2.0), PAD s/p R BKA, chronic back pain on methadone, 
statin-induced hepatitis admitted from ALF with encephalopathy 
found to have ___ and hyperglycemia.  Her course is summarized 
by problem below.

ACTIVE:

# Encephalopathy: Patient returned back to her baseline quite 
quickly after admission.  Infectious work-up was negative and 
labs were wnl, with the exception of the ___ on admission and 
the suspect-contaminated blood cultures (see below).  Unclear if 
___ methadone increase as this was done ~1 month ago.  
Alternatively pt reports that she takes Benadryl as needed for 
pruritus and the creams do not work.  Methadone was restarted at 
lower, 5mg TID dose, as was gabapentin given her dose seemed too 
high for her renal function.  She was advised to stop using 
benadryl.  PACT team followed allowed to help with home 
medication management.  Patient was discharged with ___ to 
help with medication management.

# Bactermia: Blood cultures from ___ grew out with GPCs in ___ 
bottles; and then again on ___, CoNS).  She appeared well 
clinically with no evidence of infection.  As a possible 
potential source, her right knee stump was x-rayed as she does 
have rods there - xray was negative for any evidence of osteo or 
SSTI.  CRP was less than 10.  She received vancomycin x 2 doses. 
ID was consulted and also agreed that both positive cultures 
were likely contaminated, but recommend the following:  
- IF ___ blood cultures grow out CoNS but with a different 
profile from ___, then it is a contaminant
- IF ___ blood cultures grow out a different species entirely 
from ___, then it is a contaminant
- IF ___ blood cultures grew out the SAME CoNS as in the ___ 
bottles, we need to reassess as possibly real
- PLEASE CHECK BLOOD CULTURES ON ___ APPOINTMENT

# HTN: Medications were titrated given ongoing SBPs in the 
190s-210s during her hospitalization.  Her hydralazine was 
increased, as was the frequency of her labetalol.  She still had 
elevated SBPs late night/early morning, but was asymptomatic, 
and during the day ran from 130s-150s systolic.  

#DM type 1: VBG in the ED 7.35/52/29 not consistent with 
significant with acidosis/DKA, despite hyperglycemia.  Possibly 
___ poor compliance as pt totally relies on her smart glucometer 
for insulin dosing and does not know her sliding scale regimen.  
___ was consulted and insulin regimen adjusted.  Patient was 
discharged home with ___ services and ___ f/u as outpatient 
upon discharge.

#Chronic back pain on methadone: restarted methadone 5mg PO TID 
as noted above, along with lower dose of gabapentin at 200 mg 
twice daily

#Acute renal failure on CKD: Improved with IVF, back to 
baseline.

#CAD: positive trop 0.03 on admission, likely demand related in 
context of dehydration. 
-EKG reviewed which showed SR and old stable RBBB
-continue aspirin/Plavix, statin contraindicated by
statin-induced autoimmune hepatitis 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN PRN 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
3. Aspirin 81 mg PO DAILY 
4. Calcitriol 0.25 mcg PO DAILY 
5. Citalopram 20 mg PO DAILY 
6. Clopidogrel 75 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Gabapentin 400 mg PO TID 
9. Glucagon 1 mg IV PRN hypoglycemia 
10. HydrALAzine 15 mg PO BID 
11. Labetalol 600 mg PO BID 
12. Levothyroxine Sodium 88 mcg PO DAILY 
13. Lidocaine 5% Patch 1 PTCH TD DAILY 
14. Methadone 10 mg PO BID pain 
15. Metoclopramide 5 mg PO QIDACHS 
16. Pantoprazole 40 mg PO Q24H 
17. Polyethylene Glycol 17 g PO DAILY 
18. Senna 17.2 mg PO DAILY 
19. Tiotropium Bromide 1 CAP IH DAILY 
20. Ascorbic Acid ___ mg PO BID 
21. Cyanocobalamin 1000 mcg PO DAILY 
22. Ferrous GLUCONATE 324 mg PO BID 
23. Multivitamins 1 TAB PO DAILY 
24. Ondansetron 4 mg PO Q8H:PRN nausea 
25. Restasis 2 drops Other TID 
26. Vitamin D 800 UNIT PO DAILY 
27. Lantus Solostar (insulin glargine) 100 unit/mL (3 mL) 
subcutaneous DAILY 
28. HumaLOG KwikPen (insulin lispro) 100 unit/mL subcutaneous 
QIDACHS 
29. Insulin Pen Needle (insulin needles (disposable)) 32 Gauge x 
___ (4mm nano)  SC QIDACHS 

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q8H:PRN PRN 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
3. Ascorbic Acid ___ mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. Citalopram 20 mg PO DAILY 
6. Clopidogrel 75 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Levothyroxine Sodium 88 mcg PO DAILY 
9. Methadone 5 mg PO TID 
10. Metoclopramide 5 mg PO QIDACHS 
11. Multivitamins 1 TAB PO DAILY 
12. Ondansetron 4 mg PO Q8H:PRN nausea 
13. Pantoprazole 40 mg PO Q24H 
14. Polyethylene Glycol 17 g PO DAILY 
15. Tiotropium Bromide 1 CAP IH DAILY 
16. Calcitriol 0.25 mcg PO DAILY 
17. Cyanocobalamin 1000 mcg PO DAILY 
18. Ferrous GLUCONATE 324 mg PO BID 
19. Restasis 2 drops Other TID 
20. Senna 17.2 mg PO DAILY 
21. Vitamin D 800 UNIT PO DAILY 
22. Gabapentin 200 mg PO BID 
RX *gabapentin 100 mg two capsule(s) by mouth twice daily Disp 
#*120 Capsule Refills:*0
23. HydrALAzine 25 mg PO BID 
RX *hydralazine 25 mg one tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0
24. Labetalol 600 mg PO TID 
RX *labetalol 300 mg two tablet(s) by mouth three times daily 
Disp #*180 Tablet Refills:*0
25. Insulin Pen Needle (insulin needles (disposable)) 32 Gauge x 
___ (4mm nano)  SC QIDACHS 
26. Lidocaine 5% Ointment 1 Appl TP BID 
to lower back 
RX *lidocaine 5 % one application to affected area twice daily 
Refills:*5
27. Glargine 38 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
28. Glucagon 1 mg IV PRN hypoglycemia 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Encephalopathy
Polypharmacy
Type I DM with Hyperglycemia
CKD, ___
Bacteremia, suspect contaminant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mrs. ___,  you were admitted to ___ with confusion and 
elevated blood sugars.  Your pain meds (gabapentin and 
methadone) were decreased and your insulin regimen was adjusted 
as advised by Dr. ___. You will be discharged 
home with visiting nurses to help with your insulin and 
medications at home.  Please avoid taking benadryl for itching 
as it can make you very sleepy and confused.  You should be seen 
by Dr. ___ in the next few days to make sure this current 
insulin regimen is working for you.  

In addition, as we discussed your blood cultures grew out 
bacteria on ___ and ___.  We think that this is MOST likely a 
contaminant; you were seen by the Infectious disease team who 
also feels the same.  However, we do need to make sure this is 
NOT an infection.  Please have Dr. ___ your blood cultures 
on ___ during your appointment.  In addition, we will keep an 
eye on the cultures done during the hospitalization and will 
call you if there is anything of concern.  

Please see below for your follow-up appointments. 
 
Followup Instructions:
___